US04162246
2,2-Bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 2)
26.3 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 17.0 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane and 0.5 g of potassium hydroxide were added to 200 ml of methanol, and the mixture was refluxed for 8 hours. After completion of the reaction, the mixture was allowed to cool and the crystals which precipitated were washed with methanol and then recrystallized from benzene to give Compound No. 2 in the form of white crystals melting at 241°-244° C.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 26.3 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 17.0 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | 2,2-Bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C45H66N6O8
